Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache and Ataxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with a history of
hypertension, anxiety, who presents from OSH after acute onset
headache and ataxia.

Per the patient, he was walking with his wife and dog in his
usual state of health on ___. At 1840, he acutely
felt "off balance," described as "euphoria" and "out of body." 
He
felt a dull pain in his left temple initially that eventually
migrated down to the back of the neck on the left side as well 
as
the base of his skull. In addition, he acutely felt "dizzy"
described as a room spinning sensation. He lost his balance and
fell slowly to the ground. He experienced some blurry vision at
this time. He sat down in the middle of the road, but the
vertiginous sensation persisted. He felt nauseous but did not
vomit. After some minutes, he was able to get up slowly as the
sensation was somewhat mitigated, and slowly walked back home. 
He
felt as though he was being pulled to the left, and needed a 
wide
stance to be able to walk without falling. At home, he had
persistent symptoms, including ringing in the left ear with some
hearing loss on that side. He measured his BP at home and found
it to be 168/87, P 63. He also started to experience "right eye
laziness," but no frank diplopia. Because of these symptoms, his
wife took him to OSH for further evaluation. The patient denies 
a
history of recent trauma or neck manipulation.

Of note, the patient reports that about a month ago, he had a
brief, similar symptom of acute onset vertigo which lasted about
___ minutes, but because it resolved on its own, he did not seek
additional medical attention. No palpitations noted.

At OSH, he underwent a CT/CTA at ___, which was concerning for 
a
left vertebral thrombus/dissection, as well as a hypodensity in
the left cerebellum concerning for infarction. He received 
Zofran
and morphine for headache/nausea, but no other intervention was
made. He was subsequently transferred to ___ for further
management.

 
Past Medical History:
Atenolol 25 mg
Fluoxetine 10 mg

 
Social History:
___
Family History:
no history of stroke or blood clots
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T 97.4   P 58   BP 116/72    RR 18  O2 98% RA 
 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  There is trace dysarthria, most prominent with
guttural sounds.  Normal prosody. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: Right pupil 3->2. Left pupil 2.5->2. There is
trace left ptosis. VF full to number counting. EOMI, with no 
skew
at rest. There is direction changing nystagmus. Diplopia at far
ends of bilateral gaze, but able to bury sclera bilaterally.
V1-V3 without deficits to light touch bilaterally. No facial
movement asymmetry. Hearing decreased to finger rub on the left.
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin bilaterally. No
extinction to DSS.

- Coordination: Mild dysmetria with finger to nose testing on
left, with subtle over/undershoots on mirroring tasks on left.
Diminished rapid alternating movements on left. HTS appears
symmetric.

- Gait: deferred
DISCHARGE PHYSICAL EXAM:
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

NEUROLOGIC EXAMINATION:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria, improved from presentation.  Normal
prosody. No apraxia. No evidence of hemineglect. No left-right
confusion. Able to follow both midline and appendicular 
commands.

- Cranial Nerves: Right pupil 3->2. Left pupil 2.5->2. No longer
exhibiting left ptosis. EOMI, with no skew at rest. There is
subtle right beating nystagmus w/ R gaze. No longer experiencing
diplopia at far ends of bilateral gaze, able to bury sclera
bilaterally, now experiencing diplopia with upward gaze; images
are horizontally displaced, left image remains when closing
either eye. V1-V3 without deficits to light touch bilaterally. 
No
facial movement asymmetry. Hearing decreased to finger rub on 
the
left; + Weber on L, - ___. Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. Upward pronator drift with
rebound. No tremor or asterixis. Finger tapping intact.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch or proprioception
bilaterally. No extinction to DSS.

- Coordination: Mild dysmetria with finger to nose testing on
left, with past pointing with mirroring tasks on left. Improved
rapid alternating movements on left, however mild dysmetria with
repeated tapping index finger to thumb crease on left. 

- Gait: Able to stand feet together with eyes open, however 
falls
to right with Romberg test. Gait deferred
 
Pertinent Results:
Admission Labs:
==================
___ 04:00AM BLOOD WBC-7.9 RBC-4.62 Hgb-14.2 Hct-42.4 MCV-92 
MCH-30.7 MCHC-33.5 RDW-12.3 RDWSD-40.9 Plt ___
___ 04:00AM BLOOD Neuts-55.3 ___ Monos-8.5 Eos-3.0 
Baso-0.6 Im ___ AbsNeut-4.37 AbsLymp-2.54 AbsMono-0.67 
AbsEos-0.24 AbsBaso-0.05
___ 04:00AM BLOOD ___ PTT-28.6 ___
___ 04:00AM BLOOD Glucose-168* UreaN-15 Creat-0.8 Na-140 
K-4.3 Cl-102 HCO3-27 AnGap-15
___ 04:00AM BLOOD ALT-18 AST-17 AlkPhos-60 TotBili-0.4
___ 04:00AM BLOOD cTropnT-<0.01
___ 04:00AM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.6 Mg-1.9 
Cholest-263*
___ 04:00AM BLOOD %HbA1c-8.2* eAG-189*
___ 04:00AM BLOOD Triglyc-237* HDL-37 CHOL/HD-7.1 
LDLcalc-179*
___ 06:15PM BLOOD TSH-1.5
___ 04:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Discharge Labs:
====================

___ 05:00AM BLOOD WBC-7.6 RBC-4.85 Hgb-14.9 Hct-44.3 MCV-91 
MCH-30.7 MCHC-33.6 RDW-11.8 RDWSD-39.4 Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-178* UreaN-15 Creat-0.8 Na-139 
K-4.9 Cl-100 HCO3-30 AnGap-14
___ 05:00AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.9

Imaging:
=====================
MR HEAD W/O CONTRAST: ___
1. Acute infarcts of the left cerebellar vermis and bilateral 
cerebellar hemispheres. 
2. Occlusion of the left vertebral artery from its origin to the 
V2 segment with distal reconstitution.  While fat saturation 
images are motion limited, there is no definite evidence of 
acute dissection. 
3. Unremarkable MRA of the head. 

Echo ___
The left atrium is mildly dilated. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Overall left 
ventricular systolic function is normal (LVEF = 65%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve is bicuspid. The aortic valve leaflets are 
moderately thickened. There is mild aortic valve stenosis (valve 
area 1.2-1.9cm2). Mild (1+) aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. No intracardiac shunt or 
mass seen. Probable bicuspid aortic valve with mild aortic 
stenosis and mild aortic regurgitation  

 
Brief Hospital Course:
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 159) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - () No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
 ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - () N/A

Mr. ___ is a ___ year old man with a history of HTN and 
anxiety, who was admitted to the Neurology stroke service from 
OSH after acute onset headache and ataxia. On laboratory workup 
he was seen to have have T2DM and HLD and was started on ASA 
81mg and Atorvastatin 40mg. MRI/MRA was performed on ___ 
which showed infarct of left cerebellar vermis and bilateral 
cerebellar hemispheres. Etiology is likely to be thrombosis 
secondary to atheroembolic source given the heavily calcified 
vertebral origin. An Echo was also performed on ___ to work 
up possible cardioembolic source. Echo revealed no evidence of 
mass or clot. His deficits improved greatly prior to discharge 
with improvement of left ptosis and resolution of diplopia at 
far ends of bilateral gaze. The exam was notable for direction 
changing nystagmus, dysmetria on the left, left pronator drift 
with rebound and positive Romberg. Patient to be discharged home 
with follow up with neurology, outpatient ___, and event 
monitor to rule paroxysmal arrhythmias:

Her stroke risk factors include the following:
1) DM: A1c 8.2%
2) Hyperlipidemia: on Atorvastatin with LDL 159
3) Obesity
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY hypertension 
2. FLUoxetine 10 mg PO DAILY anxiety 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*0 
3.  Atenolol 25 mg PO DAILY hypertension  
4.  FLUoxetine 10 mg PO DAILY anxiety  
5.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of headache and 
dyscoordination resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High blood pressure
High cholesterol
NEW Diabetes Mellitus Type II
We are changing your medications as follows:
Please continue taking Aspirin 81mg daily
Please continue taking Atorvastatin 40mg every evening
Please follow a diabetic diet and implement an appropriate 
exercise regimen to control your newly diagnosed diabetes. 

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician. 
Please work with physical therapy as an outpatient.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___